US04304735
To a mixture of 55 grams (0.5 mole) of thiophenol and 51 grams of boron trifluoride-phosphoric acid complex was slowly added, with stirring and cooling, 34 grams (0.6 mole) of isobutylene at 0° C. After addition was complete the mixture was stirred at 0° C. for two hours. The organic layer was separated from the catalyst layer and added to 200 ml of toluene. The toluene layer was distilled in a one-foot packed column to give 78 grams of tert-Butyl Phenyl Sulfide, b.p. 55°/3.0 mm (yield 94%). The nmr spectrum agreed with the proposed structure.

reactant | thiophenol | 0.5 mole, 55 grams | C1(=CC=CC=C1)S | C6H6S
reactant | isobutylene | 0.6 mole, 34 grams | CC(C)=C | C4H8
product | tert-Butyl Phenyl Sulfide | 78 grams, yield 94% | C1(=CC=CC=C1)SC(C)(C)C | C10H14S
